US05604229
(1) 4-Bromomethyldecylbenzene
4-Decylphenylmethanol (3.91 g) was dissolved in toluene (40 ml) and thereto was added 48% hydrobromic acid (40 ml). The mixture was refluxed under heating at 90° C. for 6 hours. After cooling, the organic layer was separated and washed with saturated brine and a sodium hydrogencarbonate solution. The mixture was dried over anhydrous sodium sulfate and the solvent was distilled away to give 4.9 g of the oily subject compound.

reactant | 4-Decylphenylmethanol | 3.91 g | C(CCCCCCCCC)C1=CC=C(C=C1)CO | C17H28O
reactant | hydrobromic acid | 40 ml | Br | BrH
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Bromomethyldecylbenzene | 4.9 g | BrCC(CCCC1=CC=CC=C1)CCCCCC | C17H27Br
